US05912244
(3S,4S)-6-(3-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran (2.2 g) (see Preparation 15) was dissolved in ethanol (25 ml) and 35% aqueous ammonia solution (25ml) was added. The mixture was heated at 40-50° C. for 24 hours. The solvent was removed under reduced pressure and the residue was chromatographed on silica using 7.5:92.5 methanol: dichloromethane as the eluent to yield (3S,4R)-4-amino-3,4-dihydro-3-hydroxy-6-(3-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran (1.42 g) as a foam. Found: C,54.39; H,5.22; N,3.19. C18H21NO5S, 0.50 CH2Cl2 requires C,54.75; H,5.46; N,3.45%.

reactant | (3S,4S)-6-(3-tert-Butyldimethylsilyloxyphenyl)sulphonyl-3,4-dihydro-3,4-epoxy-2,2,3-trimethyl-2H-benzo[b]pyran | 2.2 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)S(=O)(=O)C1=CC2=C(OC([C@@]3([C@H]2O3)C)(C)C)C=C1 | C24H32O5SSi
reactant | ammonia | 25ml | N | H3N
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (3S,4R)-4-amino-3,4-dihydro-3-hydroxy-6-(3-hydroxyphenyl)sulphonyl-2,2,3-trimethyl-2H-benzo[b]pyran | 1.42 g | N[C@@H]1C2=C(OC([C@@]1(C)O)(C)C)C=CC(=C2)S(=O)(=O)C2=CC(=CC=C2)O | C18H21NO5S
